US08026257B2
tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (25 mg) was stirred in trifluoroacetic acid (50% in dichloromethane, 1.5 mL) for 4 h and concentrated. The residue was loaded onto a strong cation exchange cartridge and washed with several volumes of methanol. The product was eluted with 2M ammonia in methanol and concentrated. The crude piperidine was dissolved in dichloromethane (1 mL) and treated with di-tert-butyldicarbonate (17 mg). After 15 min, the reaction was quenched by addition of 2 M ammonia in methanol and concentrated. Column chromatography (ethyl acetate/n-hexane) gave the title compound. 1H-NMR (CDCl3, 500 MHz) δ 10.14 (bs, 1H), 7.93 (s, 1H), 7.66 (d, J=1.8, 1H), 7.29 (dd, J=8.2, 5.2, 2H), 7.07 (dd, J=8.9, 8.5, 2H), 4.85 (s, 1H), 3.50-3.80 (m, 6H), 3.36 (d, J=8.5, 1H), 3.02 (m, 2H), 2.15 (m, 2H), 1.81 (m, 2H), 1.42 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 169.8, 161.7 (d, J=247 Hz), 155.0, 137.82, 137.79, 136.0, 133.7, 128.8 (d, J=7.7 Hz), 126.2, 126.1, 125.0, 120.8, 119.5, 115.7 (d,J=21 Hz), 80.7, 79.6, 79.0, 52.7, 41.3, 39.9 (br), 32.3, 32.2, 28.5.

reactant | tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 25 mg | ClC1=CC2=CN(N=C2C(=C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H45ClFN3O6Si
solvent | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C27H31ClFN3O5
